US07692017B2
2-(Allyloxy)-4-(3-fluorophenyl)-6-methoxyquinoline-3-carbonitrile
To a solution of 4-(3-fluorophenyl)-6-methoxy-2-oxo-1,2-dihydroquinoline-3-carbonitrile (1.00 g, 3.40 mmol) in 20 mL of N,N-dimethylformamide at 0° C. was added sodium hydride (163 mg of 60% dispersion in mineral oil, 4.08 mmol). After 30 minutes, allyl iodide was added (0.342 mL, 3.74 mmol), and the reaction was stirred for 2 hours. The reaction was quenched with water and partitioned between EtOAc and water, and the organic layer was washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The crude residue was subjected to flash chomatography through SiO2 (5-60% EtOAc/hexane) to provide the second eluting product as the titled compound. 1H NMR, difference nOe, and HMQC NMR spectral data for the product were consistent with the titled compound. ESI+ MS: 335.1 [M+H]+.

reactant | 4-(3-fluorophenyl)-6-methoxy-2-oxo-1,2-dihydroquinoline-3-carbonitrile | 3.40 mmol, 1.00 g | FC=1C=C(C=CC1)C1=C(C(NC2=CC=C(C=C12)OC)=O)C#N | C17H11FN2O2
reactant | sodium hydride | 4.08 mmol, 163 mg | [H-].[Na+]
reactant | allyl iodide | C(C=C)I | C3H5I
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 2-(Allyloxy)-4-(3-fluorophenyl)-6-methoxyquinoline-3-carbonitrile | C(C=C)OC1=NC2=CC=C(C=C2C(=C1C#N)C1=CC(=CC=C1)F)OC | C20H15FN2O2
